US04168380
An intimate mixture of 1.49 g of 5-methoxyanthranilic acid, 1.58 g of methyl 2-chlorothiazole-5-carboxylate and 0.075 g of powdered potassium iodide was stirred and heated in an oil bath at 160°-165° for 80 minutes. The resultant dark solid was treated with 75 ml of a saturated solution of sodium bicarbonate and extracted with three portions of chloroform. The combined, dried (over magnesium sulfate) extract was concentrated in vacuo to a tan solid (1.59 g). Crystallization from methylene chloride-ether gave 0.86 g of methyl 7-methoxy-5-oxo-5H-thiazolo[2,3-b]quinazoline-2-carboxylate, having a melting point of 186°-192° C. This methyl ester was hydrolyzed by stirring for 16 hours at room temperature with 30 ml of 1 N sodium hydroxide and 30 ml of methanol. After filtration, the filtrate was acidified with acetic acid to pH5 and concentrated in vacuo. Water was added and the solid was removed by filtration. Since the base treatment also opens the lactam, this solid was refluxed for 1 hour in 75 ml of acetic acid. After concentration to 25 ml, the product crystallized on cooling and was filtered to give 0.53 of pure 7-methoxy-5-oxo-5H-thiazolo[2,3-b]quinazoline-2-carboxylic acid having a melting point of 247°-247.5° C.

reactant | 5-methoxyanthranilic acid | 1.49 g | COC1=CC=C(C(C(=O)O)=C1)N | C8H9NO3
reactant | methyl 2-chlorothiazole-5-carboxylate | 1.58 g | ClC=1SC(=CN1)C(=O)OC | C5H4ClNO2S
reactant | potassium iodide | 0.075 g | [I-].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | methyl 7-methoxy-5-oxo-5H-thiazolo[2,3-b]quinazoline-2-carboxylate | 0.86 g | COC=1C=C2C(N3C(=NC2=CC1)SC(=C3)C(=O)OC)=O | C13H10N2O4S
